US06399631B1
N1-Benzyl-ethane-1,2-diamine (6.0 g, 25.1 mmol) was coupled with 9-Ethyl-9H-carbazole-3-carboxylic acid as described in example 81 to afford, after chromatographic purification (silica; 3% MeOH/CH2Cl2) 9-Ethyl-9H-carbazole-3-carboxylic acid (2-benzylamino-ethyl)-amide (4.5 g, 48%) (MS m/z @ 372 (m+1). This material was subjected to catalytic hydrogenation ((10%Pd—C/H2 @ 50 psi) in EtOH/AcOH to afford 9-Ethyl-9H-carbazole-3-carboxylic acid (2-amino-ethyl)-amide (3.16 g, 92%) as a white solid MS m/z @ 282 (m+1). This material was reductively aminated using sodium triacetoxyborohydride and thiazole-2-carbaldehyde similarly to conditions described for example 75 to afford the title compound (350 mg, 65%). MS m/z @ 379 (m+1).

reactant | N1-Benzyl-ethane-1,2-diamine | 25.1 mmol, 6.0 g | C(C1=CC=CC=C1)NCCN | C9H14N2
reactant | 9-Ethyl-9H-carbazole-3-carboxylic acid | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)C(=O)O | C15H13NO2
product | 9-Ethyl-9H-carbazole-3-carboxylic acid (2-amino-ethyl)-amide | 3.16 g, 92% | NCCNC(=O)C=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C17H19N3O
